US06872833B2
To a solution of 50 mg (0.12 mmol) (+)-2-chloromethyl-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide in 2 ml ethanol was added 1.32 ml (3.57 mmol) sodium ethylate solution (2.71 M solution in ethanol) and the mixture ultrasonicated at room temperature for 2 h. The reaction mixture was then poured onto water and extracted three times with dichloromethane. The organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/1 acetone/heptane) followed by trituration in ether afforded 35 mg (68%) (+)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-ethoxymethyl-isonicotinamide as an off-white solid. [α]D20=+60.7° (c=0.94, CHCl3), ES-MS m/e (%): 430 (M+H+, 100).

reactant | (+)-2-chloromethyl-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | 0.12 mmol, 50 mg | ClCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1 | C19H18ClN3O4S
reactant | sodium ethylate solution | 3.57 mmol, 2.71 M, 1.32 ml | CC[O-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (+)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-ethoxymethyl-isonicotinamide | 35 mg, 68% | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)COCC)=O)OC | C21H23N3O5S
